US06774130B2
Disopropylcarbodiimide (113.5 mg, 0.55 mmol) was added to a solution of biotin (122 mg, 0.5 mmol), (R)-1-(5-acetoxyhexyl)-3-(6-aminohexyl)-7-methylxanthine (227 mg, 0.5 mmol) and 4-N,N-dimethylaminopyridine (73.3 mg, 0.6 mmol) in dimethylformamide. After stirring at room temperature for 6 hours, dimethylformamide was evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 20% methanol/ethyl acetate to provide (R)-1-(5-acetoxyhexyl)-3-(N-biotinyl-6-aminohexyl)-7-methylxanthine (110 mg).

reactant | biotin | 0.5 mmol, 122 mg | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | (R)-1-(5-acetoxyhexyl)-3-(6-aminohexyl)-7-methylxanthine | 0.5 mmol, 227 mg | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)CCCCCCN)C | C20H33N5O4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (R)-1-(5-acetoxyhexyl)-3-(N-biotinyl-6-aminohexyl)-7-methylxanthine | 110 mg | C(C)(=O)OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)CCCCCCNC(CCCC[C@H]1SC[C@@H]2NC(=O)N[C@H]12)=O)C | C30H47N7O6S
